US09056874B2
(±)-2-((2-Chloro-4-methyl-5-nitrobenzyl)oxy)tetrahydro-2H-pyran
To a solution of (2-chloro-4-methyl-5-nitrophenyl)methanol (23 g, 114 mmol) and 3,4-dihydro-2H-pyran (20.9 mL, 228 mmol) in CH2Cl2 (500 mL) was added pyridinium p-toluenesulfonate (5.7 g, 22.8 mmol), and then the mixture was stirred at room temperature for 11 h. The reaction was quenched by 5% aq. NaHCO3. The layers were separated and the aqueous layer was extracted with CH2Cl2. The organic layers were combined and washed with H2O and brine, dried over Na2SO4, filtered and concentrated. The resulting residue was purified by SiO2 column chromatography (heptane/EtOAc=96/4, isocratic) to give the title compound. 1H NMR (400 MHz, ACETONITRILE-d3) δ 8.10 (s, 1H), 7.49 (s, 1H), 4.81 (d, J=13.64 Hz, 1H), 4.72-4.78 (m, 1H), 4.59 (d, J=13.64 Hz, 1H), 3.77-3.92 (m, 1H), 3.34-3.60 (m, 1H), 2.54 (s, 3H), 1.68-1.91 (m, 2H), 1.43-1.68 (m, 4H).

reactant | (2-chloro-4-methyl-5-nitrophenyl)methanol | 114 mmol, 23 g | ClC1=C(C=C(C(=C1)C)[N+](=O)[O-])CO | C8H8ClNO3
reactant | 3,4-dihydro-2H-pyran | 228 mmol, 20.9 mL | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 22.8 mmol, 5.7 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | (±)-2-((2-Chloro-4-methyl-5-nitrobenzyl)oxy)tetrahydro-2H-pyran | ClC1=C(COC2OCCCC2)C=C(C(=C1)C)[N+](=O)[O-] | C13H16ClNO4
